US04684658
A solution of 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile (15.6 g) and of potassium hydroxide powder (15.8 g) in ethylene glycol (150 cc) is heated at a temperature of about 156° C. for 11 hours and 30 minutes. After 16 hours' stirring at a temperature of about 20° C., the solvent is evaporated off under reduced pressure (2 mm Hg; 0.27 kPa) at a temperature of about 100° C. The residue obtained is dissolved in distilled water (250 cc). The solution obtained is treated with decolourising charcoal (0.5 g) and filtered. The filtrate is adjusted to a pH of about 5 at a temperature of about 25° C. by addition of a 5 N aqueous solution of hydrochloric acid (50 cc). The suspension obtained is stirred at a temperature of about 20° C. for 1 hour. The crystals are separated off by filtration, washed 5 times with distilled water (250 cc in total) and then dried in air. 3-(3-Pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid (13.4 g) is thus obtained in the form of beige crystals melting at 198° C.

reactant | 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 15.6 g | N1=CC(=CC=C1)C1=CC(=C2CCCCN12)C#N | C14H13N3
reactant | potassium hydroxide | 15.8 g | [OH-].[K+]
reactant | charcoal | 0.5 g | C | CH4
reactant | ethylene glycol | 150 cc | C(CO)O | C2H6O2
solvent | water | 250 cc | O | H2O
product | 3-(3-Pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylic acid | 13.4 g | N1=CC(=CC=C1)C1=CC(=C2CCCCN12)C(=O)O | C14H14N2O2
